US08497368B2
6-[6-(1-Ethoxy-vinyl)-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl]-7-fluoro-quinoline (72.3)
A mixture of 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-7-fluoro-quinoline (2.0 g, 5.57 mmol), Pd(Ph3P)4(0.64 g, 0.56 mmol) and tributyl(1-ethoxyvinyl)stannane (4.02 g, 11.14 mmol) in DMF (50 mL) was flushed with nitrogen and then heated at 100° C., stirred for 7 hours. Removal of the solvent under reduced pressure, the residue was diluted with DCM, washed sequentially with KF (aq.) and water, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel column chromatography with gradient (DCM:MeOH=50:1) to give the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.11 (s, 1H), 8.93 (d, 1H), 8.40 (d, 1H), 8.15 (d, 1H), 7.83 (d, 1H), 7.54 (m, 1H), 6.22 (s, 2H), 5.50 (d, 1H), 4.73 (d, 1H), 4.02 (q, 2H), 1.40 (t, 3H). LCMS (method E): [MH]+=351, tR=5.42 min.

reactant | 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-7-fluoro-quinoline | 5.57 mmol, 2.0 g | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2F | C14H8BrFN6
reactant | tributyl(1-ethoxyvinyl)stannane | 11.14 mmol, 4.02 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 0.56 mmol, 0.64 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[6-(1-Ethoxy-vinyl)-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl]-7-fluoro-quinoline | C(C)OC(=C)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2F | C18H15FN6O
